US07087601B2
A solution of [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]acetonitrile (270 mg, 1.0 mmol) and THF (20 mL) was cooled to −78° C. A solution of NaHMDS (3.7 mL, 2.2 mmol, 0.6M solution in PhMe) was added dropwise via syringe to the reaction. After 15 min at −78° C., 1,4-dibromobutane (143 μL, 1.2 mmol) was added dropwise via syringe. The cooling bath was removed, and the reaction was allowed to warm to rt. The reaction was quenched by the addition of silica gel (600 mg) and concentrated to dryness. The residue was purified by flash chromatography on silica gel (EtOAc:hexanes 1:5) to afford the desired 1-[4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]cyclopentanecarbonitrile as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.34 (s, 1H), 8.12 (dd, 1H), 7.77–7.80 (m, 1H), 7.56–7.62 (m, 2H), 7.35–7.42 (m, 2H), 2.71–2.78 (m, 2H), 2.14–2.26 (m, 2H), 1.89–2.01 (m, 4H). MS (ESI) 323 (M+H)+.

reactant | [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]acetonitrile | 1.0 mmol, 270 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)Cl | C15H9ClN2O
reactant | NaHMDS | 2.2 mmol, 0.6M, 3.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,4-dibromobutane | 1.2 mmol, 143 μL | BrCCCCBr | C4H8Br2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-[4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]cyclopentanecarbonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2(CCCC2)C#N)Cl | C19H15ClN2O
